US08110573B2
A mixture of 4-(3,4-dinitro-benzyl)-morpholine (1 mol. eq.) and 5% Pd/C (0.05 wt. eq.) in IMS (33 vol.) was stirred at 0-5° C. while the vessel was charged with hydrogen. The mixture was carefully warmed to 15-20° C. with stirring until the reaction was complete (<24 hours). The mixture was filtered and the filtrate evaporated to dryness to give 4-morpholin-4-ylmethyl-benzene-1,2-diamine (90%). The material was used immediately in the next step. (LC/MS (basic method): Rt 1.64, [M-N(CH2CH2)2O−]+ 121).

reactant | 4-(3,4-dinitro-benzyl)-morpholine | 1 mol | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1[N+](=O)[O-] | C11H13N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | 4-morpholin-4-ylmethyl-benzene-1,2-diamine | 90% | N1(CCOCC1)CC=1C=C(C(=CC1)N)N | C11H17N3O
